US04730008
(E)-4-[4-Fluorophenyl]-3-buten-1-ol
n-Butyllithium (1.6M in H, 100 ml) was added dropwise to a stirred suspension of (3-hydroxypropyl)triphenylphosphonium bromide (32.1 g) in dry THF (200 ml) cooled to 0° C. under nitrogen. A solution of 4-fluorobenzaldehyde (9.93 g) in dry THF (100 ml) was added dropwise and the mixture stirred under nitrogen at 0° C. for 30 min and at room temperature for a further 1.5 h. The mixture was carefully diluted with water (25 ml), the solvent evaporated in vacuo at 40° and the residue partitioned between EA (200 ml) and water (200 ml). The aqueous phase was re-extracted with EA (200 ml), the organic phases combined, dried and evaporated in vacuo to give a brown oil. Purification by FCC eluting with CX-ER (1:1) gave the title compound as a colourless oil (6.33 g). T.l.c. (CX-ER 1:1) Rf 0.13

reactant | n-Butyllithium | 1.6M, 100 ml | C(CCC)[Li]
reactant | (3-hydroxypropyl)triphenylphosphonium bromide | 32.1 g | [Br-].OCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-fluorobenzaldehyde | 9.93 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | (E)-4-[4-Fluorophenyl]-3-buten-1-ol | 6.33 g | FC1=CC=C(C=C1)/C=C/CCO | C10H11FO
